US06274735B1
Preparation of 1-[2-[7-[(3R,4R)-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidin-3-yloxymethyl]-naphthalen-2-yloxy]-ethyl]-4-methyl-piperazine
A solution of 9.15 g (12.14 mmol) (3R,4R)-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-3-[7-[2-(4-methyl-piperazin-1-yl)-ethoxy]-naphthalen-2-ylmethoxy]-piperidine-1-carboxylic acid tert-butylester in 250 ml of methanol was treated at room temperature with 36.41 ml of a 2.0 M solution of hydrogen chloride in methanol and the mixture was stirred at 50° C. for 4 hours. Subsequently, the solution was evaporated under reduced pressure and the residue was partitioned between 200 ml of saturated sodium carbonate solution and 150 ml of methylene chloride. The aqueous phase was again extracted twice with 100 ml of methylene chloride; thereafter the organic phases were combined, dried over sodium sulphate and evaporated under reduced pressure. For purification, the crude product was chromatographed on silica gel using a 90:10 mixture of methylene chloride and methanol as the eluent resulting in 5.25 g (66% of theory) of 1-[2-[7-[(3R,4R)-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidin-3-yloxymethyl]-naphthalen-2-yloxy]-ethyl]-4-methyl-piperazine as an amorphous, colourless solid; MS: 654 (M+H)+.

reactant | (3R,4R)-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-3-[7-[2-(4-methyl-piperazin-1-yl)-ethoxy]-naphthalen-2-ylmethoxy]-piperidine-1-carboxylic acid tert-butylester | 12.14 mmol, 9.15 g | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)OCC1=CC2=CC(=CC=C2C=C1)OCCN1CCN(CC1)C | C45H59N3O7
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 250 ml | CO | CH4O
product | 1-[2-[7-[(3R,4R)-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidin-3-yloxymethyl]-naphthalen-2-yloxy]-ethyl]-4-methyl-piperazine | COC1=C(COCCCOC2=CC=C(C=C2)[C@@H]2[C@H](CNCC2)OCC2=CC=C3C=CC(=CC3=C2)OCCN2CCN(CC2)C)C=CC=C1 | C40H51N3O5
